US05480946
9.045 g (5.53 m equiv. amine) of an α,ω-di-propylamino-poly-(dimethyl siloxane) of MW 1636 (Shin Etsu Corp. No. X-22-161A) are placed in a 1 oz. jar; 4.56 g of hexafluoroisopropyl methacrylate (F6MA) are added and the mixture is stirred and cooled in an ice-water bath. 0.21 g (0.9546 m moles) of isophorone diisocyanate (IPDI) are added and the mixture is stirred for 2 hours at room temperature until all isocycanate has disappeared (by IR). Then 1.85 g (9.22 m moles) m-isopropenyl-α,α-dimethylbenzyl isocyanate (TMI) are added and the mixture is stirred for 2 more hours to yield a clear viscous liquid of a 70.90% solution of α-methyl styrene capped, chain extended poly(dimethyl siloxane) of MW 2426 (calculated) in F6MA.

reactant | hexafluoroisopropyl methacrylate | 4.56 g | C(C(=C)C)(=O)OC(C(F)(F)F)C(F)(F)F | C7H6F6O2
reactant | isophorone diisocyanate | 0.21 g | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | m-isopropenyl-α,α-dimethylbenzyl isocyanate | 1.85 g | C(=C)(C)C=1C=C(C(C)(C)N=C=O)C=CC1 | C13H15NO
product | α-methyl styrene | CC(=C)C1=CC=CC=C1 | C9H10
